US07645771B2
Preparation of 2,2-dichloro-N-{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2,2-dimethylpropyl}acetamide
2,2-dichloro-N-{(1S)-1-[(4-(3-fluorophenyl-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2,2-dimethylpropyl}acetamide was obtained from treating 1,1-dimethylethyl {(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-2,2-dimethylpropyl}carbamate, example 915, (0.591 g, 0.90 mmol) with HCl as outlined in the procedure for Example 890 to form (2S)-1-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-3,3-dimethyl-1-oxo-2-butanamine (0.500 g, 99%). 2S)-1-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-3,3-dimethyl-1-oxo-2-butanamine (0.050 g, 0.09 mmol), Dichloro-acetyl chloride (0.013 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, 2,2-dichloro-N-{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2,2-dimethylpropyl}acetamide (0.036 g, 60%) as an oil. ES-LCMS m/z 670 (M+1).

reactant | 1-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)-3,3-dimethyl-1-oxo-2-butanamine | 0.09 mmol, 0.050 g | FC=1C=C(C=CC1)C1(CCN(CC1)C(C(C(C)(C)C)N)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C34H46FN5O
reactant | Dichloro-acetyl chloride | 0.09 mmol, 0.013 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | 2,2-dichloro-N-{(1S)-1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl) carbonyl]-2,2-dimethylpropyl}acetamide | 0.036 g, 60% | ClC(C(=O)N[C@@H](C(C)(C)C)C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)Cl | C36H46Cl2FN5O2
